US04067903
260 parts of phenylethyl alcohol, 428 parts of m-toluidine and 20 parts of triphenyl phosphite are mixed and heated, using a water separator, initially to 210° C, at which temperature the elimination of water commences. The internal temperature is raised to 236° C in the course of 8 hours. After this time, the elimination of water has ended (36 parts of water). After distilling off excess alcohol and amine, the N-(2-phenylethyl)-m-toluidine distils at a boiling point of 167° C/5 mm Hg. 402 parts of N-(2-phenylethyl)-m-toluidine (90% of theory) are obtained.

reactant | phenylethyl alcohol | C1(=CC=CC=C1)CCO | C8H10O
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | N-(2-phenylethyl)-m-toluidine | 90% | C1(=CC=CC=C1)CCNC1=CC(=CC=C1)C | C15H17N
